US04073795
6-Methyl-indole-3-carboxaldehyde
A 12-l. three-necked flask, equipped with a mechanical stirrer, a thermometer and a dropping funnel provided with a Drierite drying tube was charged with 610 ml (7.9 moles) of N,N-dimethylformamide. The flask was immersed in an ice bath and 217 g (1.42 moles) of phosphorus oxychloride was added at 5°-10° with stirring over 1 hour. The dropping funnel was rinsed with 20 ml of dimethylformamide and the light pink orange oil was stirred for further 10 minutes in the ice bath. Then a solution of 156 g (1.19 moles) of 6-methylindole in 156 ml of dimethylformamide was added at 5°-10° C over a period of 1 hour. The ice bath was removed and the red orange solution was stirred for an additional hour, while the flask content warmed up to room temperature. At the end of the reaction period, 1.17 kg of crushed ice was added. The temperature fell to -10° and after a short time a light yellow slurry was formed. The reaction mixture was stirred for 1 hour, as the temperature came to 15°. Then a solution of 840 g (13.0 moles) of potassium hydroxide pellets (87% assay) in 2 l of water was added over 30 minutes, during which time the pot temperature rose to 50°. After the additiom was complete, the dropping funnel was replaced by a reflux condenser and the orange solution was heated rapidly with stirring on a steam bath to 93° and kept at this temperature for 30 minutes. The mixture was allowed to stand at room temperature overnight. The precipitate was collected by suction filtration, washed with water and dried at 60° (constant weight) to give 186.5 g (98%) of product as orange crystals, m.p. 183°-186°.

reactant | phosphorus oxychloride | 1.42 moles, 217 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 6-methylindole | 1.19 moles, 156 g | CC1=CC=C2C=CNC2=C1 | C9H9N
reactant | potassium hydroxide | 13.0 moles, 840 g | [OH-].[K+]
reactant | dimethylformamide | 156 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 7.9 moles, 610 ml | CN(C=O)C | C3H7NO
solvent | water | 2 l | O | H2O
product | 6-Methyl-indole-3-carboxaldehyde | 186.5 g, 98% | CC1=CC=C2C(=CNC2=C1)C=O | C10H9NO
